US08084470B2
336 mg (3.0 mmol) of potassium tert-butoxide were added at 0° C. to a solution of 607 mg (3.0 mmol) of 2-(phenylsulfonyl)ethanethiol in DMF (10 ml). After stirring for 10 min at 0° C., 534 mg (2.0 mmol) of 2-chloro-6-methyl-N-(thiophen-2-ylmethyl)nicotinamide were added and the mixture was then heated for 16 h at 50° C. Dilution with EA and washing with brine were then carried out. The organic phase was dried over Na2SO4, filtered and concentrated in vacuo. CC (hexane/EA 7:3) of the residue yielded 556 mg (1.28 mmol, 64%) of 2-[2-(benzenesulfonyl)ethylthio]-6-methyl-N-(2-thienylmethyl)-nicotinamide. MS: m/z 433.1 [M+H]+

reactant | potassium tert-butoxide | 3.0 mmol, 336 mg | CC(C)([O-])C.[K+]
reactant | 2-(phenylsulfonyl)ethanethiol | 3.0 mmol, 607 mg | C1(=CC=CC=C1)S(=O)(=O)CCS | C8H10O2S2
reactant | 2-chloro-6-methyl-N-(thiophen-2-ylmethyl)nicotinamide | 2.0 mmol, 534 mg | ClC1=C(C(=O)NCC=2SC=CC2)C=CC(=N1)C | C12H11ClN2OS
reactant | hexane EA | CCCCCC.CC(OCC)=O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-[2-(benzenesulfonyl)ethylthio]-6-methyl-N-(2-thienylmethyl)-nicotinamide | 1.28 mmol, 556 mg, 64% | C1(=CC=CC=C1)S(=O)(=O)CCSC1=C(C(=O)NCC=2SC=CC2)C=CC(=N1)C | C20H20N2O3S3
